US07208497B2
A mixture of 4-methanesulfonylphenol (1.72 g, 10 mmol), DMA (25 ml) and 4 N sodium hydroxide (7 ml) was stirred under an atmosphere of nitrogen. 2-(2-Pyranyloxy)ethylbromide (2.8 g, 14 mmol) was added dropwise and then the mixture was stirred overnight at ambient temperature. The solvent was evaporated in vacuo and the residue was taken up in water (100 ml). The aqueous mixture was extracted with ethyl acetate (2×100 ml) and the combined organic extracts were washed with a 0.5 N sodium hydroxide solution and brine. The organic phase was concentrated to give an oily residue that was dissolved in methanol (50 ml). A solution of 5 N HCl (20 ml) was added and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was concentrated and a small portion of ice was added followed by 4 N sodium hydroxide until approximately pH 10. The alkaline mixture was extracted with ethyl acetate (3×75 ml) and the combined organic extracts were washed with water and dried (MgSO4). The solvent was evaporated to give 0.82 g (38%) of 2-(4-methanesulfonylphenoxy)ethanol. M.p. 89–90° C.

reactant | 4-methanesulfonylphenol | 10 mmol, 1.72 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | sodium hydroxide | 4 N, 7 ml | [OH-].[Na+]
reactant | 2-(2-Pyranyloxy)ethylbromide | 14 mmol, 2.8 g | O1C(C=CC=C1)OCCBr | C7H9BrO2
reactant | HCl | 5 N, 20 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | DMA | 25 ml | CC(=O)N(C)C | C4H9NO
product | 2-(4-methanesulfonylphenoxy)ethanol | 0.82 g, 38% | CS(=O)(=O)C1=CC=C(OCCO)C=C1 | C9H12O4S
